US08426447B2
A vial was charged with (R)-2-(2-amino-2′-bromo-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)benzonitrile (75 mg, 0.167 mmol), pyridin-3-ylboronic acid (51.4 mg, 0.418 mmol), tetrakis(triphenylphosphine)palladium(0) (9.67 mg, 8.37 μmol), THF (837 μL), and potassium carbonate (418 μL, 0.837 mmol) (as a 2.0 M aq. solution). The vial was sealed and heated to 100° C. in a shaker overnight. The mixture was diluted with EtOAc and the layers were separated. The aqueous layer was extracted with EtOAc (2×). The combined organic extracts were evaporated, and the residue was chromatographed on a 25-g SNAP column, eluting with 0-80% of a 90:10:1 mix of DCM/MeOH/NH4OH in DCM to give (S)-2-(2-amino-2′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)benzonitrile as a pale-yellow solid.

reactant | (R)-2-(2-amino-2′-bromo-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)benzonitrile | 0.167 mmol, 75 mg | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)Br)OC2=C(C#N)C=CC=C2)N1 | C22H14BrN3O3
reactant | pyridin-3-ylboronic acid | 0.418 mmol, 51.4 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | THF | 837 μL | C1CCOC1 | C4H8O
reactant | potassium carbonate | 0.837 mmol, 418 μL | C([O-])([O-])=O.[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 8.37 μmol, 9.67 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-(2-amino-2′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)benzonitrile | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C=2C=NC=CC2)OC2=C(C#N)C=CC=C2)N1 | C27H18N4O3
